US05196426
2-(Bicyclo[2.2.1]hept-2-yl)-1,3-Benzodioxole
benzobicyclo[2.2.1]heptan-2-one is converted to 2-(benzobicyclo[2.2.1]hept-2-yl)-1,3-benzodioxole in 93.5% yield.

reactant | benzobicyclo[2.2.1]heptan-2-one | C12C3=C(C(CC1=O)C2)C=CC=C3 | C11H10O
reactant | 1,3-benzodioxole | O1COC2=C1C=CC=C2 | C7H6O2
product | 2-(Bicyclo[2.2.1]hept-2-yl)-1,3-Benzodioxole | C12C(CC(CC1)C2)C2OC1=C(O2)C=CC=C1 | C14H16O2
